US04166115
A mixture of 2-(3-chloro-4-hydroxyphenyl)glyoxylic acid (2.0 g.), O-t-butoxycarbonylmethylhydroxylamine (1.62 g.) and methanol (20 ml.) was adjusted to pH 5 to 6 by adding an 1 N methanol solution of sodium methoxide and stirred for 3 hours at ambient temperature. The reaction mixture was concentrated to dryness under reduced pressure and the residue was dissolved in an 1 N aqueous solution of sodium hydroxide to adjust to pH 7.0. The aqueous solution was washed with ether, adjusted to pH 2.0 with 10% hydrochloric acid under ice-cooling and extracted with ether. The extract was washed with water and dried over magnesium sulfate. The solution was concentrated to dryness under reduced pressure to give crystals of 2-t-butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid (syn isomer) (2.6 g.), mp 116° to 118° C. (dec.).

reactant | 2-(3-chloro-4-hydroxyphenyl)glyoxylic acid | 2.0 g | ClC=1C=C(C=CC1O)C(C(=O)O)=O | C8H5ClO4
reactant | O-t-butoxycarbonylmethylhydroxylamine | 1.62 g | C(C)(C)(C)OC(=O)CON | C6H13NO3
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 1 N | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
product | 2-t-butoxycarbonylmethoxyimino-2-(3-chloro-4-hydroxyphenyl)acetic acid | 2.6 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C1=CC(=C(C=C1)O)Cl | C14H16ClNO6
